US06949325B2
Synthesis of 2-trifluoromethanesulfonylaminoethyl methacrylate (I)
To a solution of 15 g (0.091 mol) of 2-aminoethyl methacrylate hydrochloride (available from Aldrich) in 250 ml of anhydrous methylene chloride was added 18.4 g of redistilled triethylamine (0.182 mol). After the mixture was stirred at room temperature for 1 hour, 15.3 g trifluoromethane sulfonylchloride (0.091 mol) was added. The resulting mixture was further stirred at room temperature overnight. About 200 ml ether was added. The mixture was filtered to remove the precipitate formed. The filtrate was sequentially washed with 2×100 ml of 5% HCl, 100 ml of saturated NaHCO3, 2×100 ml brine, and then dried over MgSO4. The solvents were removed by rotavap. About 14.5 g of viscous liquid was obtained. The product was further purified by recrystallization from 1:1 hexane/chloroform to give about 12 g white solid (51%) having a melting point of 55-58° C.

reactant | 2-aminoethyl methacrylate hydrochloride | 0.091 mol, 15 g | Cl.C(C(=C)C)(=O)OCCN
reactant | triethylamine | 0.182 mol, 18.4 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethane sulfonylchloride | 0.091 mol, 15.3 g | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2-trifluoromethanesulfonylaminoethyl methacrylate | 14.5 g | C(C(=C)C)(=O)OCCNS(=O)(=O)C(F)(F)F | C7H10F3NO4S
